* Simulation for DC gain, phase margin and gain bandwidth product 

.lib ac2

VIN	inp 0 	dc 0 ac 1
VDD	vdd 0	'half'
VSS	0 vss	'half'
 
X1	s inp out vdd vss	opamp
RL	out 0			valrl
RF	out s			valrf
CF	s 0			valcf
 
.PARAM half='psvoltage/2' valrl=20k valrf=1T valcf=10m
.AC DEC 10 0.1 1T
.PRINT VDB(out) VP(out)

* DC gain
.MEAS AC dcgain FIND VM(out) AT=0.1
.MEAS AC dcgain_db FIND VDB(out) AT=0.1

* Gain bandwidth product
.meas AC ugf when vdb(out)=0.0
.meas ac dcgain_half param='dcgain_db/2'
.meas ac freq_half when vdb(out)='dcgain_half'
.meas ac gbw param='min(ugf,freq_half*dcgain_half)'

* Phase margin
.meas AC pm min 'vp(out)+180' from=0.001 to=ugf

.endl ac2